US07964643B2
4′-Acetylbiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide (ABD-261)
Using a method analogous to that described in Example 40, 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide and 4-acetylphenyl boronic acid were reacted to give the title compound as a white solid. δC (DMSO, 62.9 MHz): 22.6, 26.9, 28.9, 32.0, 42.6, 60.5, 127.0, 127.3, 127.9, 128.9, 136.4, 140.2, 142.5, 142.9 and 197.6.

reactant | 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)Br | C11H16BrNO3S
reactant | 4-acetylphenyl boronic acid | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
product | 4′-Acetylbiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O | C19H23NO4S
